US07635715B2
A solution of NaH (60% dispersion in mineral oil) (2.1 g, 53 mmol) in DMF (100 mL) in a 500 mL round bottom flask was cooled 0° C. A solution of ethyl 2,2-bis(4-chlorophenyl)acetate (5.47 g, 18 mmol) and MeI (3.3 mL, 53 mmol) in DMF (50 mL) was added dropwise over 15 minutes. The mixture was stirred at 0° C. for 15 minutes and then allowed to warm to room temperature and stirred for 20 hours. A mixture of products was observed by LC/MS. The solution was diluted with EtOAc (200 mL), and then washed with 10% HCl(aq) (200 mL), with deionized water (200 mL), and then with brine (100 mL). The organic layer was dried over MgSO4, concentrated, and dried in vacuo to give 10.11 g crude product which was purified by flash column chromatography (silica, 0-100%, hexane/EtOAc) to give 2,2-bis(4-chlorophenyl)propanoic acid (3.05 g).

reactant | NaH | 53 mmol, 2.1 g | [H-].[Na+]
reactant | ethyl 2,2-bis(4-chlorophenyl)acetate | 18 mmol, 5.47 g | ClC1=CC=C(C=C1)C(C(=O)OCC)C1=CC=C(C=C1)Cl | C16H14Cl2O2
reactant | MeI | 53 mmol, 3.3 mL | CI | CH3I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2,2-bis(4-chlorophenyl)propanoic acid | 3.05 g | ClC1=CC=C(C=C1)C(C(=O)O)(C)C1=CC=C(C=C1)Cl | C15H12Cl2O2
